US05131946
3-(4-Chloro-2-fluoro-5-methylsulphonyloxyphenylimino)-tetrahydro-1H,3H-pyrrolo[1,2-c]thiazole (process A)
10 g 2-(Hydroxymethyl)pyrrolidine and 27.6 g 4-chloro-2-fluoro-5-methylsulphonyloxyphenyl isothiocyanate were heated under reflux for 4 hours in 200 ml dioxane. The solvent was removed and the residue heated with 50 ml 48% hydrobromic acid. After cooling, the reaction solution was added to an ice/water mixture, neutralised with 40% caustic soda and extracted with methylene chloride. After drying and concentrating, the crude product was purified by column chromatography (silica gel, eluent; hexane/ethyl acetate).

reactant | 2-(Hydroxymethyl)pyrrolidine | 10 g | OCC1NCCC1 | C5H11NO
reactant | 4-chloro-2-fluoro-5-methylsulphonyloxyphenyl isothiocyanate | 27.6 g | ClC1=CC(=C(C=C1OS(=O)(=O)C)N=C=S)F | C8H5ClFNO3S2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Chloro-2-fluoro-5-methylsulphonyloxyphenylimino)-tetrahydro-1H,3H-pyrrolo[1,2-c]thiazole | ClC1=CC(=C(C=C1OS(=O)(=O)C)N=C1SCC2N1CCC2)F | C13H14ClFN2O3S2
